*****************************************************************
* NXP BUK7Y43-60E
*
* Polarity N-Channel
* Ratings 60V/4.300000E-002OHMS/21.6233608674176A

* Date Created Tue Feb 05 02:55:48 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7Y43-60E DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 1.58336269740926
RLS1 8 7 0.00024

RDS 7 4 60000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0253178220280184 TC=0.00479602417579203,1.38442551513891E-05
RBD 9 4 0.00374837145354562 TC=0.00479602417579203,1.38442551513891E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 4.13270222744128e-10
RG 1 2 1.87663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -16	428.425
+ -10	427.628
+ -8	427.071
+ -6	425.806
+ -5	423.298
+ -4	411.143
+ -3	405.296
+ -2	332.804
+ -1	259.403
+ -0.5	208.19
+ -0.2	173.793
+ -0.1	172.986
+ 0	162.15998
+ 0.1	142.23076
+ 0.2	142.08636
+ 0.5	127.08252
+ 1	114.57132
+ 2	99.03676
+ 3	91.23852
+ 4	86.80064
+ 5	83.85093
+ 6	81.70087
+ 8	78.59988
+ 10	76.32047
+ 12	74.42268
+ 15	72.01596
+ 20	68.78692
+ 30	64.23094
+ 40	61.24129
+ 48	59.48299



.MODEL MINT NMOS(Vto=4.1 Kp=21 Nfs=1380000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=6.30144270909271e-14
+ N=1 M=0.57 VJ=0.5 Fc=0.5 Cjo=2.2093256e-10 Tt=1.12e-08)

.ENDS

